US06797718B2
1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl (3-Phenylprop-2-ynyl) Ether
Sodium hydride (0.82 g, 20.48 mmol, 60% in mineral oil) and anhydrous N,N-dimethylformamide (20 mL) were combined and stirred for 5 minutes under nitrogen. A solution of 1-[2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]ethan-2-ol (5.8 g, 19.50 mmol) from Part G in N,N-dimethylformamide (30 mL) was then added to the sodium hydride over 5 minutes. After stirring the resulting reaction solution for 10 minutes at room temperature, a solution of 3-bromo-1-phenylpropyne (4.18 g, 21.45 mmol) from Part A in N,N-dimethylformamide (15 mL) was added to the reaction solution, and the resulting reaction mixture was stirred for 4 hours and 10 minutes. Sodium hydride (0.10 g, 60 % in mineral oil) and then 3-bromo-1-phenylpropyne (1 g) were added to the reaction mixture, and after stirring for 30 minutes, HPLC monitoring of the reaction mixture indicated about 7% starting material remaining. The reaction mixture was concentrated under reduced pressure, and the resulting oil was dissolved in dichloromethane. The dichloromethane solution was washed with saturated ammonium chloride (3×), water (3×), and brine (3×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure to a brown solid, which was triturated with diethyl ether. The resulting solid was filtered off, and a second crop was collected from the mother liquor. The combined solids were passed through a column of silica (120 g, 40×200 mm) using 95/5 ethyl acetate/dichloromethane. A white solid (5.4 g) was isolated and carried on to the next step. HPLC analysis indicated the presence of about 9% starting material in the white solid.

reactant | Sodium hydride | 20.48 mmol, 0.82 g | [H-].[Na+]
reactant | 1-[2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]ethan-2-ol | 19.50 mmol, 5.8 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCO | C17H19N3O2
reactant | 3-bromo-1-phenylpropyne | 21.45 mmol, 4.18 g | BrCC#CC1=CC=CC=C1 | C9H7Br
reactant | Sodium hydride | 0.10 g | [H-].[Na+]
reactant | 3-bromo-1-phenylpropyne | 1 g | BrCC#CC1=CC=CC=C1 | C9H7Br
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl (3-Phenylprop-2-ynyl) Ether | 5.4 g | C1(=CC=CC=C1)C#CCOCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)C | C26H25N3O2
